US04476321
While cooling at 0° C., 101.2 g of a 40% solution of sodium hydrogen sulfite are added dropwise to a solution of 6.4 g of copper sulfate in 276 ml of 36% hydrochloric acid and 72 ml of water. To the resultant solution is then made the simultaneous dropwise addition of 101.2 g of a 40% solution of sodium hydrogen sulfite and a diazonium salt solution which has been cooled to -10° C. and obtained by the dropwise addition, with cooling, of 28.8 g of sodium nitrite in 44 ml of water to a solution of 39 ml of water, 84 ml of 36% hydrochloric acid and 90.8 g of 2-pentafluoroethoxy-aniline. During this addition the temperature of the reaction mixture rises to 30° C., accompanied by the simultaneous evolution of gas. The reaction mixture is stirred for 18 hours, whereupon a brown oil precipitates. The organic phase is separated and the aqueous phase is extracted with methylene chloride. The organic phases are combined and evaporated to dryness, affording crude 2-pentafluoroethoxyphenylsulfonyl chloride in the form of a brown oil.

reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | sodium nitrite | 28.8 g | N(=O)[O-].[Na+]
reactant | 2-pentafluoroethoxy-aniline | 90.8 g | FC(C(F)(F)F)(OC1=C(N)C=CC=C1)F | C8H6F5NO
reactant | hydrochloric acid | 276 ml | Cl | ClH
reactant | hydrochloric acid | 84 ml | Cl | ClH
solvent | water | 72 ml | O | H2O
solvent | water | 44 ml | O | H2O
catalyst | copper sulfate | 6.4 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 39 ml | O | H2O
product | 2-pentafluoroethoxyphenylsulfonyl chloride | FC(C(F)(F)F)(OC1=C(C=CC=C1)S(=O)(=O)Cl)F | C8H4ClF5O3S
